US04497650
1,2-Dihydro-2,2-dimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
A mixture of 16 g (0.12 mole) of 2-aminobenzimidazole, 100 ml of acetone and 16 g of 3A molecular sieves was stirred and heated under reflux, adding 8 g of additional sieves after 24 hours. Refluxing was continued for a total period of 3 days, after which the mixture was allowed to cool and a solution of 4.77 g (0.06 mole) of N-chloroformamide(1) in ~25 ml. of acetone added dropwise with stirring. The mixture was warmed to the reflux point several times and the rate of N-chloroformamide addition adjusted to keep the temperature just below the reflux point. An additional 50 ml of acetone were added to facilitate stirring of the thickening reaction mixture. Upon completion of the feed, the reaction flask was fitted with a drying tube and the mixture stirred for 3 days at room temperature. The reaction mixture was then evaporated under reduced pressure to give 9.3 g of a tan solid. The latter was extracted with boiling acetone to separate an insoluble fraction and the acetone solution evaporated to give the crude solid product. The latter material was chromatographed on silica, eluting with CHCl3 /CH3OH (80:5). Fractions 3 through 8 were combined and evaporated to give 3.9 g of product, mp 178°-180° C. (dec).

reactant | 2-aminobenzimidazole | 0.12 mole, 16 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | N-chloroformamide | ClNC=O | CH2ClNO
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 1,2-Dihydro-2,2-dimethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | 9.3 g | CC1(NC2=NC3=C(N2C(N1)=O)C=CC=C3)C | C11H12N4O
